US06300366B1
N-(2-Cyclopropylphenyl)-3,4-dihydro-2H-pyrrol-5-amine hydrochloride
5 mmol (425 mg) of 2-pyrrolidinone and 5 mmol (766 mg) of phosphorus oxychloride are added to a solution of 5 mmol (666 mg) of 2-cyclopropylaniline in 30 ml of 1,2-dichloroethane. The whole is heated at 60° C. for 3.5 hours. After evaporation of the solvent, the residue is taken up in water, rendered alkaline with the aid of sodium carbonate, and extracted twice with 100 ml of ether. The organic phase is then dried, concentrated and purified by chromatography on silica gel to yield the expected product. The corresponding hydrochloride is obtained by the action of a titrated solution of hydrochloric acid in ethanol.

reactant | 2-pyrrolidinone | 5 mmol, 425 mg | N1C(CCC1)=O | C4H7NO
reactant | phosphorus oxychloride | 5 mmol, 766 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-cyclopropylaniline | 5 mmol, 666 mg | C1(CC1)C1=C(N)C=CC=C1 | C9H11N
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | N-(2-Cyclopropylphenyl)-3,4-dihydro-2H-pyrrol-5-amine hydrochloride | Cl.C1(CC1)C1=C(C=CC=C1)NC=1CCCN1 | InChI=1S/C13H16N2.ClH/c1-2-5-12(11(4-1)10-7-8-10)15-13-6-3-9-14-13;/h1-2,4-5,10H,3,6-9H2,(H,14,15);1H
